US06001849
Preparation of 5-methyl-2-(2-(R)-pyrrolidinyl)-furo[3,2-b]pyridine hydrochloride
The title compound was prepared from 1-Boc-2(R)-ethynylpyrrolidine according to the procedures of Example 5 above: [α]D≤ +16.5° (c 1.0, MeOH); Anal. Calcd for C12H14N2O.2.0 HCl.0.2 H2O.0.2 ethanol: C, 51.39; H, 6.19; N, 9.67. Found: C, 51.63; H, 6.49; N, 9.33.

reactant | 1-Boc-2(R)-ethynylpyrrolidine | C(=O)(OC(C)(C)C)N1[C@H](CCC1)C#C | C11H17NO2
reactant | MeOH | CO | CH4O
reactant | HCl | Cl | ClH
reactant | H2O | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 5-methyl-2-(2-(R)-pyrrolidinyl)-furo[3,2-b]pyridine hydrochloride | Cl.CC1=CC=C2C(=N1)C=C(O2)[C@@H]2NCCC2 | InChI=1S/C12H14N2O.ClH/c1-8-4-5-11-10(14-8)7-12(15-11)9-3-2-6-13-9;/h4-5,7,9,13H,2-3,6H2,1H3;1H/t9-;/m1./s1
